Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Chest pain, syncope.  
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
HPI: Obtained by telephone with help of interpreter ___ 
___. Ms. ___ is a ___ year old ___ woman 
with history of DM2, depression, anxiety and LCIS who presents 
with chest pain and syncope x2. She was reportedly visiting her 
husband who is very ill when she developed sudden onset of 
substernal chest pain without radiation. She reports this pain 
came on in the setting of feeling extremely sad about her 
husband's condition and also feeling anxious about his impending 
death. Her pain was associated with shortness of breath and 
anxiety. She reports that she felt as though she was going to 
pass out with symptoms of LH and EMS confirmed 2 episodes of 
syncope (one reported by staff before their arrival and one 
subsequent to their arrival). Each episode was limited to 
seconds and she had no residual LH or confusion. There was no 
jerking activity and no loss of bowel or bladder continence. She 
reports 2 distinct episodes of CP limited to a few minutes each. 
The first resolved on its own and the second was just as EMS was 
arriving. Upon arrival, EMS gave her 2 SL NTG and ASA and her 
chest pain resolved. She was transported to ___ ED for further 
evaluation.  
.  
Upon presentation to the ED, intitial vitals were: T 97.4 BP 
165/93 HR 62 RR 16 O2sat 96% on RA. Labs revealed negative 
cardiac enzymes x1, normal chemistries with the exception of 
glucose elevated to 202, and normal CBC. EKG in the ED showed 
isolated TWI in III which was reported as stable compared to 
prior. No CXR was performed at time of sign out. Her BP came 
down on its own without medication and was 128/71 prior to 
transfer.  
.  
Since the episodes x 2 at husband's ___ of CP, SOB, anxiety, and 
syncope, she reports she has had no further episodes. She 
reports similar episodes in the past in the setting of feeling 
sad and anxious with identical symptoms which she attributed to 
anxiety. She actually told ___ staff that she was feeling better 
and didn't want to go to the ED, but EMS insisted.  
.  
Of note, she was admitted years ago in ___ for chest pain. 
Exercise MIBI at that time showed moderate, predominantly fixed 
inferior wall defect towards the base with hypokinesis. 
Subsequent catheterization, however showed clean coronaries. She 
has had no further workup since then as has largely been 
asymptomatic.  
.  
ROS: No fever, chills, weight change, nausea, vomiting, 
constipation, diarrhea, melena, BRBPR, palpitations, cough, 
change in vision, hearing, hematuria, dysuria, ___ swelling or 
calf pain, numbness, tingling, weakness, joint pain, myalgias, 
rashes.
 
Past Medical History:
-Diabetes mellitus, type 2  
-Chest pain  
-Headaches  
-Depression  
-Lobular carcinoma in situ  
-GERD  
-Chronic back pain  
-? Panic attacks; "chest pain, inability to speak, fainting, nl 
cath in ___ and ___ at ___ by her report" in OMR problem 
list  
-Hyperlipidemia  
 
Social History:
___
Family History:
___ has no family history of breast or ovarian cancer. 
She has six sisters and four brothers, all of whom are healthy 
and have no cancers. There are no cases of cancer in any of her 
children.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: 97.1 110/60 76 18 98%RA ___ 221  
Gen: Well appearing obese woman in NAD. Lying in bed. Flat 
affect.  
HEENT: PERRL, MMM.  
Neck: Supple, no JVD appreciated.  
CV: RRR, no mrg.  
Resp: CTAB, no w/r/r.  
Abd: Obese, soft, +BS, NT, ND.  
Ext: Trace edema bilaterally. WWP. No calf pain.  
Skin: No rashes.  
Neuro: Appropriate, cooperative with history and exam. AAOx3. CN 
___ intact. Strength and sensation to soft touch grossly 
intact.  
 
Pertinent Results:
ADMISSION LABS:
___ 05:30PM   ___ PTT-21.3* ___
___ 05:30PM   PLT COUNT-288
___ 05:30PM   NEUTS-58.0 ___ MONOS-4.3 EOS-1.1 
BASOS-0.3
___ 05:30PM   WBC-8.6 RBC-4.56 HGB-12.1 HCT-36.8 MCV-81* 
MCH-26.6* MCHC-32.9 RDW-13.2
___ 05:30PM   ALBUMIN-4.2 CALCIUM-10.2 PHOSPHATE-3.2 
MAGNESIUM-1.8
___ 05:30PM   GLUCOSE-202* UREA N-18 CREAT-0.8 SODIUM-140 
POTASSIUM-3.8 CHLORIDE-103 TOTAL CO2-25 ANION GAP-16
___ 05:41PM   K+-3.6

URINE STUDIES:
___ 08:00PM URINE  ___ BACTERIA-NONE YEAST-NONE 
___ 08:00PM URINE  BLOOD-SM NITRITE-NEG PROTEIN-NEG 
GLUCOSE-1000 KETONE-TR BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
___ 08:00PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___: %HbA1c: 10.3
.
___: CK: 130  MB: 3  Trop-T: <0.01  
___: CK: 84  MB: Notdone  Trop-T: <0.01  
___: CK: 66  MB: Notdone  Trop-T: <0.01  

.
ADMISSION EKG: NSR at rate of 89bpm, LAD, normal intervals. TWI 
III, aVF, and V1 stable compared to prior. No significant ST 
changes. EKG overall unchanged when compared to one dated 
___. 
.
Imaging:  
___ CXR -The lung volumes are low. Within the limitations of 
this low lung volumes, the cardiomediastinal contour is most 
likely stable since the prior examination. There is worsening of 
previously demonstrated left basal opacity, which is currently 
seen in the left lower lobe, lingula, and there might be another 
area of opacity at the right base, although in part it may be 
contributed by the summation of shadows and low lung volumes. 
There is no evidence of pleural effusion. There is no 
pneumothorax. Repeated chest radiograph in full inspiration is 
highly recommended to establish the optimallung aeration and 
reevaluate the lung bases. 

 
Brief Hospital Course:
CHEST PAIN: Patient was worked up for cardiac etiology of chest 
pain and syncope in light of risk factors for coronary disease. 
CEs negative x3 and EKG with no significant change from prior 
studies. She has been CP-free since admission and no complaints 
of shortness of breath. After discharge will continue statin and 
aspirin.  In light of her negative cardiac workup, the etiology 
of ___ chest pain is most likely anxiety-related given 
her husband's illness. She should follow up as an outpatient for 
psychological coping and treatment options.
.  
SYNCOPE: No cardiac etiology was found for ___ syncope. 
There were no symptoms concerning for seizure activity or 
postictal state. Nothing on tele suggested tachy- or 
bradyarrythmia as cause and there was no murmur on exam to 
suggest valvular disease. There were no positional changes to 
suggest orthostasis. Neuro exam was within normal limits making 
neurological cause unlikely. Syncope was most likely related to 
anxiety and hyperventilation.
.  
DIABETES, TYPE II: During hospital stay, metformin was held 
until MI ruled out. Patient was placed on sliding scale insulin. 
Metformin was resumed on discharge. HgA1C was checked and 
measured at 10.3%. Patient should follow up as outpatient for 
better glucose control.  
.  
HYPERLIPIDEMIA: Last lipids in our system checked in ___ at 
which time LDL 90, HDL 48, TGs 159. Was continued on simvastatin 
in house.  
.  
HTN: No clear history of hypertension and patient does not take 
anti-hypertensive medications. Patient presented to ED with SBP 
160s systolic. Did, however, come down on its own and was 
120s/70s on discharge. Was initiated on metoprolol while 
hospitalized in the setting of possible MI. Patient should 
follow up outpatient to assess for HTN diagnosis. 
.  
BREAST CANCER: Followed by Drs. ___. 
Bilateral LCIS both treated with wide local excision. Previously 
on Evista, more recently started on tamoxifen on ___, which 
was continued in-house given low suspicion for above symptoms as 
a result of thromboembolic event.  
.  
GERD: Ranitidine continued inhouse.   
.  
DEPRESSION: Previously on prozac which was apparently stopped in 
the setting of tamoxifen initiation.  Should follow up 
outpatient for depression in light of current social stressors.
.
.
.
ISSUES FOR FOLLOW-UP:
1. Diabetes: Hemoglobin A1C was currently elevated at 10.3%, 
which is suboptimal.  She wa sasked to follow-up with her PCP 
for this.
 
Medications on Admission:
Indomethacin 25 mg daily prn  
Simvastatin 80 mg qhs  
Docusate Sodium 100 mg bid with pain medication  
Metformin 1,000 mg bid  
Zantac 150 mg bid  
Tamoxifen 20 mg daily 
 
Discharge Medications:
1. Simvastatin 80 mg Tablet Sig: One (1) Tablet PO once a day.  
2. Ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
3. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for constipation.  
4. Tamoxifen 20 mg Tablet Sig: One (1) Tablet PO once a day.  
5. Metformin 1,000 mg Tablet Sig: One (1) Tablet PO twice a day. 
 
6. Indomethacin 25 mg Capsule Sig: One (1) Capsule PO once a day 
as needed for pain.  
7. Aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
-Chest Pain secondary to anxiety
Secondary Diagnoses:
-Diabetes mellitus, type 2  
-Panic Attacks
 
Discharge Condition:
Stable.
 
Discharge Instructions:
You came to the hospital because you were having chest pains and 
problems breathing. We wanted to be sure that there was nothing 
wrong with your heart. We took blood tests, a picture of your 
chest, and did an EKG. These tests showed that your heart did 
not cause your symptoms.
.
Your chest pains and problems breathing were probably caused by 
anxiety and stress. You should see your doctor for treatment and 
coping.
.
We did a test to check how well your blood sugars are 
controlled. The number was high and you should follow up with 
your primary care doctor about this. 
 
Followup Instructions:
___